.title kicad schematic

.include LM7810.sub
c1 vin gnd 1u
vv2 vout gnd sin(5 1 50)
x1 vin gnd v0ut LM7810
r1 gnd v0ut 1k
c2 v0ut gnd 0.1u
vv1 vin gnd sin(10 2 50)
.tran 100e-06 100e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
